US07511050B2
Step D: 9-pentyl-3-[3-(3-phenyl-1,2,4-oxadiazol-5-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
The mixture of N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]-4-(3-phenyl-1,2,4-oxadiazol-5-yl)butanohydrazide (2.78 g, 6.17 mmol) in toluene (100 ml) was refluxed for 2 hours. After cooling to room temperature, the solid was filtered, washed with ethyl acetate/Hexane (1:9) and dried to give the desired product (1.97 g, 74% yield). LCMS calculated for C22H25N8O2 (M+H): 433.2; found: 433.1.

reactant | N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]-4-(3-phenyl-1,2,4-oxadiazol-5-yl)butanohydrazide | 6.17 mmol, 2.78 g | O=C1C=2NC=NC2N(\C(\N1)=N\NC(CCCC1=NC(=NO1)C1=CC=CC=C1)=O)CCCCC | C22H26N8O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 9-pentyl-3-[3-(3-phenyl-1,2,4-oxadiazol-5-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 1.97 g, 74% yield | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)C(=NN2)CCCC2=NC(=NO2)C2=CC=CC=C2 | C22H24N8O2
